US08470882B2
To travoprost free acid ((+)-fluprostenol free acid) 3 in MeOH/H2O was added L-Arginine (>98%) (Sigma-Aldrich Cat. A5006) and the solution was stirred for 30 minutes. The solvents were evaporated then azeotroped with Et2O and hexanes to give white crystalline travoprost-L-Arginine salt 4 (quantitative).

reactant | travoprost free acid | C1[C@@H]([C@@H]([C@H]([C@@H]1O)/C=C/[C@H](COC2=CC=CC(=C2)C(F)(F)F)O)C/C=C\CCCC(=O)O)O | C23H29F3O6
reactant | L-Arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | MeOH H2O | CO.O
product | travoprost L-Arginine | CC(C)OC(=O)CCC/C=C\C[C@H]1[C@H](C[C@H]([C@@H]1/C=C/[C@H](COC=2C=CC=C(C2)C(F)(F)F)O)O)O.N[C@@H](CCCNC(N)=N)C(=O)O | InChI=1S/C26H35F3O6.C6H14N4O2/c1-17(2)35-25(33)11-6-4-3-5-10-21-22(24(32)15-23(21)31)13-12-19(30)16-34-20-9-7-8-18(14-20)26(27,28)29;7-4(5(11)12)2-1-3-10-6(8)9/h3,5,7-9,12-14,17,19,21-24,30-32H,4,6,10-11,15-16H2,1-2H3;4H,1-3,7H2,(H,11,12)(H4,8,9,10)/b5-3-,13-12+;/t19-,21-,22-,23+,24-;4-/m10/s1
